US03956363
α-methyl-β-(p-acetyloxyphenyl)propionic acid.
Similarly, when p-cyano-m-fluorobenzylchoride, p-acetyloxy-m-fluorobenzylchloride, p-acetylamino-m-fluorobenzylchloride, p-cyano-m-methoxybenzylchloride, m-cyano-p-dimethylaminobenzylchloride, p-cyano-O-fluorobenzylchloride, p-acetylamino-m-methoxybenzylchloride, p-benzoyloxybenzylchloride, p-benzoylaminobenzylchloride, m,p-dicyanobenzylchloride, m,p-diacetylaminobenzylchloride, or m,p-diacetyloxybenzylchloride is used in place of p-cyanobenzylchloride, there is obtained

reactant | p-cyano-m-fluorobenzylchoride | C(#N)C1=C(C=C(CCl)C=C1)F | C8H5ClFN
reactant | p-acetyloxy-m-fluorobenzylchloride | C(C)(=O)OC1=C(C=C(CCl)C=C1)F | C9H8ClFO2
reactant | p-acetylamino-m-fluorobenzylchloride | C(C)(=O)NC1=C(C=C(CCl)C=C1)F | C9H9ClFNO
reactant | p-cyano-m-methoxybenzylchloride | C(#N)C1=C(C=C(CCl)C=C1)OC | C9H8ClNO
reactant | m-cyano-p-dimethylaminobenzylchloride | C(#N)C=1C=C(CCl)C=CC1N(C)C | C10H11ClN2
reactant | p-acetylamino-m-methoxybenzylchloride | C(C)(=O)NC1=C(C=C(CCl)C=C1)OC | C10H12ClNO2
reactant | p-benzoyloxybenzylchloride | C(C1=CC=CC=C1)(=O)OC1=CC=C(CCl)C=C1 | C14H11ClO2
reactant | p-benzoylaminobenzylchloride | C(C1=CC=CC=C1)(=O)NC1=CC=C(CCl)C=C1 | C14H12ClNO
product | α-methyl-β-(p-acetyloxyphenyl)propionic acid | CC(C(=O)O)CC1=CC=C(C=C1)OC(C)=O | C12H14O4
